US05356926
A mixture of 3-(1-methylethoxy) -5-nitrobenzo[b]-thiophene-2-carboxamide (104 mg, 0.37 mmol) and 5% Pd on carbon (10 mg) in 20 mL of acetic acid is hydrogenated for 1.5 hours. The catalyst is removed by filtration and the filtrate concentrated in vacuo. The crude product is chromatograhed, eluting with 1:2 hexane:ethyl acetate, providing 62 mg of 5-amino-3-(1-methylethoxy)benzo[b]thiophene-2-carboxamide (67%); mp 150°-151° C.

reactant | 3-(1-methylethoxy) -5-nitrobenzo[b]-thiophene-2-carboxamide | 0.37 mmol, 104 mg | CC(C)OC=1C2=C(SC1C(=O)N)C=CC(=C2)[N+](=O)[O-] | C12H12N2O4S
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
catalyst | Pd on carbon | 10 mg | [Pd] | Pd
product | 5-amino-3-(1-methylethoxy)benzo[b]thiophene-2-carboxamide | 62 mg, 67% | NC1=CC2=C(SC(=C2OC(C)C)C(=O)N)C=C1 | C12H14N2O2S
